US08211904B2
Step 3: 1-(chloromethyl)-3-{[(1R)-1-methylpropyl]oxy}benzene
To a solution of (3-{[(1R)-1-methylpropyl]oxy}phenyl)methanol (1.01 g, 5.60 mmol) in carbon tetrachloride (18.7 ml) was added triphenylphosphine (1.40 g, 5.32 mmol). The reaction was heated to reflux overnight. The reaction was filtered through a fritted funnel and washed with carbon tetrachloride. The filtrate was concentrated. The residue was purified on a silica gel cartridge (0% EtOAc/hexanes to 10% EtOAc/hexanes) to give the desired product.

reactant | (3-{[(1R)-1-methylpropyl]oxy}phenyl)methanol | 5.60 mmol, 1.01 g | C[C@H](CC)OC=1C=C(C=CC1)CO | C11H16O2
reactant | triphenylphosphine | 5.32 mmol, 1.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 18.7 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(chloromethyl)-3-{[(1R)-1-methylpropyl]oxy}benzene | ClCC1=CC(=CC=C1)O[C@@H](CC)C | C11H15ClO
